US08541588B2
4-(5-chloro-4-fluoro-2-iodophenoxy)-3-cyano-N-(2,4-dimethoxybenzyl)-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a solution of 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 68, 335 mg, 0.77 mmol) in dimethylsulfoxide (10 ml), was added 5-chloro-4-fluoro-2-iodophenol (Preparation 734, 200 mg, 0.73 mmol) and potassium carbonate (229 mg, 1.47 mmol). The flask was purged with nitrogen (3×). The resulting suspension was allowed to stir at room temperature for 18 hours. The reaction was poured into a 1M aqueous solution of sodium hydroxide, and extracted with dichloromethane (3×). The combined organic phase was then dried over anhydrous magnesium sulfate, filtered and the solvent removed in vacuo to leave the desired product as an off white solid (504 mg, 100%).

reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.77 mmol, 335 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
reactant | 5-chloro-4-fluoro-2-iodophenol | 0.73 mmol, 200 mg | ClC=1C(=CC(=C(C1)O)I)F | C6H3ClFIO
reactant | potassium carbonate | 1.47 mmol, 229 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-(5-chloro-4-fluoro-2-iodophenoxy)-3-cyano-N-(2,4-dimethoxybenzyl)-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | ClC=1C(=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)N(C2=NC=NS2)CC2=C(C=C(C=C2)OC)OC)C#N)C1)I)F | C24H17ClFIN4O5S2
